US04990505
4-(3,5-Dimethyl-4-nitrophenyl)-3-buten-1-ol
To a stirred suspension of 3-(hydroxypropyl)triphenylphosphonium bromide (10.5 g) in dry THF (100 ml) at 0°, under nitrogen was added n-butyllithium (1.8 M in hexane, 30 ml). The stirring was continued at 0° for 30 min then a solution of 3,5-dimethyl-4-nitrobenzaldehyde (4.5 g) in dry THF (50 ml) was added over 10 min. The mixture was stirred at -10° for 1 h and at 0° for 1 h, saturated ammonium chloride (50 ml) was added and the mixture was extracted with EA (3×50 ml) the organic extracts were washed with water, brine, dried, concentrated and purified by [FCS] (triethylamine deactivated silica) eluting with EA-methanol (9:1) gave the title compound (0.3 g). T.l.c. (Toluene:ethanol:0.88 ammonia solution 39:10:1) Rf 0.18.

reactant | n-butyllithium | 1.8 M, 30 ml | C(CCC)[Li]
reactant | 3,5-dimethyl-4-nitrobenzaldehyde | 4.5 g | CC=1C=C(C=O)C=C(C1[N+](=O)[O-])C | C9H9NO3
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-(3,5-Dimethyl-4-nitrophenyl)-3-buten-1-ol | 0.3 g | CC=1C=C(C=C(C1[N+](=O)[O-])C)C=CCCO | C12H15NO3
